US08865848B2
Ethyl 2-isobutylacrylate
Bis(trimethylsilyl)amine (9.50 g, 59.0 mmol) in 250 ml of THF was metallated by 23.5 ml (59.0 mmol) of 2.5 M nBuLi in hexanes at −78° C. This mixture was additionally stirred for 0.5 h at room temperature, then cooled again to −78° C., and 10.0 g (53.7 mmol) of ethyl 2-acetyl-4-methylpentanoate was added. The resulting mixture was stirred for 1 h at room temperature, cooled to −78° C., and 8.0 g (09.27 mmol) of paraformaldehyde was added. This mixture was stirred overnight at room temperature, then filtered through glass frit (G3), and evaporated to dryness. Fractional rectification of the residue gave the title product, 50-55° C./4 mm Hg. Yield 6.50 g (78%).

reactant | Bis(trimethylsilyl)amine | 59.0 mmol, 9.50 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | nBuLi | 59.0 mmol, 2.5 M, 23.5 ml | [Li]CCCC
reactant | ethyl 2-acetyl-4-methylpentanoate | 53.7 mmol, 10.0 g | C(C)(=O)C(C(=O)OCC)CC(C)C | C10H18O3
reactant | paraformaldehyde | 8.0 g | C=O | CH2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | Ethyl 2-isobutylacrylate | C(C(C)C)C(C(=O)OCC)=C | C9H16O2
